US07915200B2
13. Preparation of 6-Amino-5-chloro-2-(4-chloro-2,5-difluorophenyl)-pyrimidine-4-carboxylic acid methyl ester (Compound 20)
6-Amino-2-(4-chloro-2,5-difluorophenyl)pyrimidine-4-carboxylic acid methyl ester (0.090 g, 0.3 mmol) and N-chlorosuccinimide (0.05 g, 0.37 mmol) were combined in 10 mL acetonitrile and heated at 40° C. for 18 hours. The reaction mixture was concentrated and the product purified by column chromatography (ethyl acetate/hexane gradient) to yield the title compound as an off-white solid (0.050 g, 50% yield): 1H NMR (CDCl3): δ 7.85 (dd, 1H), 7.22 (dd, 1H), 5.62 (br s, 2H), 4.01 (s, 3H).

reactant | 6-Amino-2-(4-chloro-2,5-difluorophenyl)pyrimidine-4-carboxylic acid methyl ester | 0.3 mmol, 0.090 g | COC(=O)C1=NC(=NC(=C1)N)C1=C(C=C(C(=C1)F)Cl)F | C12H8ClF2N3O2
reactant | N-chlorosuccinimide | 0.37 mmol, 0.05 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-Amino-5-chloro-2-(4-chloro-2,5-difluorophenyl)-pyrimidine-4-carboxylic acid methyl ester | 0.050 g, 50% yield | COC(=O)C1=NC(=NC(=C1Cl)N)C1=C(C=C(C(=C1)F)Cl)F | C12H7Cl2F2N3O2
